US07312233B2
(R)-(7-amino-3,4-dihydro-2h-benzo[b][1,4]oxazin-3-yl)methanol was prepared using the same procedure as for (s)-(3,4-dihydro-7-nitro-2h-benzo[b][1,4]oxazin-3-yl)methanol, except (s)-(oxiran-2-yl)methyl 3-nitrobenzenesulfonate was used as starting material.

reactant | (s)-(3,4-dihydro-7-nitro-2h-benzo[b][1,4]oxazin-3-yl)methanol | [N+](=O)([O-])C=1C=CC2=C(OC[C@@H](N2)CO)C1 | C9H10N2O4
reactant | (s)-(oxiran-2-yl)methyl 3-nitrobenzenesulfonate | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)OC[C@H]1OC1 | C9H9NO6S
product | (R)-(7-amino-3,4-dihydro-2h-benzo[b][1,4]oxazin-3-yl)methanol | NC=1C=CC2=C(OC[C@H](N2)CO)C1 | C9H12N2O2
